US07196090B2
1-Cyclopentyl-3-(2,6-difluoro-3,5-dimethoxy-phenyl)-7-(2-hydroxy-1-hydroxymethyl-ethylamino)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one
1-Cyclopentyl-3-(2,6-difluoro-3,5-dimethoxy-phenyl)-7-(2-hydroxy-1-hydroxymethyl-ethylamino)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one was prepared as described in Example 5 using 0.50 g (1.11 mmol) of 1-cyclopentyl-3-(2,6-difluoro-3,5-dimethoxy-phenyl)-7-methylsulfinyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one and 0.30 g (3.32 mmol) of serinol. The crude product was purified using medium-pressure chromatography eluting with 20:1 dichloromethane/methanol to give 0.38 g (72%) of the title compound: mp 172° C.–174° C. MS (APCI) (m+1)/z 480.1.

reactant | 1-cyclopentyl-3-(2,6-difluoro-3,5-dimethoxy-phenyl)-7-methylsulfinyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 1.11 mmol, 0.50 g | C1(CCCC1)N1C(N(CC=2C1=NC(=NC2)S(=O)C)C2=C(C(=CC(=C2F)OC)OC)F)=O | C20H22F2N4O4S
reactant | serinol | 3.32 mmol, 0.30 g | NC(CO)CO | C3H9NO2
product | 1-Cyclopentyl-3-(2,6-difluoro-3,5-dimethoxy-phenyl)-7-(2-hydroxy-1-hydroxymethyl-ethylamino)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 0.38 g, 72% | C1(CCCC1)N1C(N(CC=2C1=NC(=NC2)NC(CO)CO)C2=C(C(=CC(=C2F)OC)OC)F)=O | C22H27F2N5O5
